US06107337
A solution of the crude 1-[(4'-fluorobiphenyl-4-sulfonyl)-(3-hydroxypropyl)amino]cyclopentanecarboxylic acid benzyl ester (22.1 grams) in acetone (400 mL) was cooled in an ice bath and treated with Jones reagent (about 20 mL) until an orange color persisted. The mixture was stirred from 0° C. to room temperature over 2 hours. After quenching excess oxidant with isopropanol (1 mL), Celite™ was added and the mixture was filtered. The filtrate was concentrated under vacuum. The residue was taken up in ethyl acetate, washed with water and brine, dried over magnesium sulfate and concentrated to afford crude 1-[(2-carboxyethyl)-(4'-fluorobiphenyl-4-sulfonyl)amino]-cyclopentanecarboxylic acid benzyl ester as an oil (21.4 grams).

reactant | 1-[(4'-fluorobiphenyl-4-sulfonyl)-(3-hydroxypropyl)amino]cyclopentanecarboxylic acid benzyl ester | 22.1 grams | C(C1=CC=CC=C1)OC(=O)C1(CCCC1)N(CCCO)S(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C28H30FNO5S
reactant | Jones reagent | about 20 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 400 mL | CC(=O)C | C3H6O
product | 1-[(2-carboxyethyl)-(4'-fluorobiphenyl-4-sulfonyl)amino]-cyclopentanecarboxylic acid benzyl ester | 21.4 grams | C(C1=CC=CC=C1)OC(=O)C1(CCCC1)N(S(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)F)CCC(=O)O | C28H28FNO6S
